US04283544
8.5 g (0.1 mol) of 2-methyloxazoline and 14.9 g (0.1 mol) of 3-methyl-2-butenyl bromide (prenyl bromide) were stirred at 20°-25° C. for 2 hours, crystalline, hygroscopic 2-methyl-3-(3-methyl-2-butenyl)-2-oxazolinium bromide being formed in an exothermic reaction.

reactant | 2-methyloxazoline | 0.1 mol, 8.5 g | CC=1OCCN1 | C4H7NO
reactant | 3-methyl-2-butenyl bromide | 0.1 mol, 14.9 g | CC(=CCBr)C | C5H9Br
product | 2-methyl-3-(3-methyl-2-butenyl)-2-oxazolinium bromide | [Br-].CC=1OCC[N+]1CC=C(C)C | InChI=1S/C9H16NO.BrH/c1-8(2)4-5-10-6-7-11-9(10)3;/h4H,5-7H2,1-3H3;1H/q+1;/p-1
